US06239152B1
5-(S)-Acetamidomethyl-3-[4′-(2″-methoxyethyl)thio-3′-fluorophenyl]oxazolidine-2-one
Prepared according to Method B of the General Procedures for Preparation of 5-(S)-(N-Acylaminomethyl)-3-[4′-(substituted)thio-3′-fluorophenyl]oxazoli-dine-2-ones from 5-(S)-acetamidomethyl-3-[4′-(triphenylmethyl)thio-3′-fluorophenyl]oxazolidine-2-one with 2-chloroethyl methyl ether (0.036 g, 0.38 mmol) in N-methylpyrrolidine-2-one (1 mL). The synthesis was performed at r.t. for 2 h. The crude product was purified by TLC (eluent: 10% methanol in dichloromethane). Yield 0.034 g (52%). MS (m/z): 343 [M+H]+. 1H NMR.

reactant | 5-(S)-acetamidomethyl-3-[4′-(triphenylmethyl)thio-3′-fluorophenyl]oxazolidine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C31H27FN2O3S
reactant | 2-chloroethyl methyl ether | 0.38 mmol, 0.036 g | COCCCl | C3H7ClO
solvent | N-methylpyrrolidine-2-one | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(S)-Acetamidomethyl-3-[4′-(2″-methoxyethyl)thio-3′-fluorophenyl]oxazolidine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SCCOC)F | C15H19FN2O4S
